US08497274B2
(vi) Production of N-(3-{[2-(acetylamino)-7-nitro-1,3-benzothiazol-6-yl]oxy}phenyl)-2-chloro-3-(1-cyano-1-methylethyl)benzamide
To a solution of 2-chloro-3-(1-cyano-1-methylethyl)benzoic acid (360 mg, 1.60 mmol) in tetrahydrofuran (2 mL) were added oxalyl chloride (172 μL, 2.00 mmol) and N,N-dimethylformamide (10 μL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in N,N-dimethylacetamide (2.5 mL). N-[6-(3-Aminophenoxy)-7-nitro-1,3-benzothiazol-2-yl]acetamide (460 mg, 1.34 mmol) was added to the solution, and the mixture was stirred at room temperature for 12 hr. The reaction mixture was diluted with ethyl acetate (50 mL), washed successively with 5% aqueous sodium hydrogen carbonate solution (50 mL) and saturated brine (50 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was successively purified by silica gel column chromatography (ethyl acetate/n-hexane=50/50→100/0), and basic silica gel column chromatography (ethyl acetate/n-hexane=70/30→100/0), and the obtained solution was concentrated under reduced pressure. The residue was crystallized from 2-butanone/n-hexane to give the title compound (300 mg, 41%) as a white powder.

reactant | 2-chloro-3-(1-cyano-1-methylethyl)benzoic acid | 1.60 mmol, 360 mg | ClC1=C(C(=O)O)C=CC=C1C(C)(C)C#N | C11H10ClNO2
reactant | oxalyl chloride | 2.00 mmol, 172 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 10 μL | CN(C=O)C | C3H7NO
reactant | N-[6-(3-Aminophenoxy)-7-nitro-1,3-benzothiazol-2-yl]acetamide | 1.34 mmol, 460 mg | NC=1C=C(OC2=C(C3=C(N=C(S3)NC(C)=O)C=C2)[N+](=O)[O-])C=CC1 | C15H12N4O4S
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-(3-{[2-(acetylamino)-7-nitro-1,3-benzothiazol-6-yl]oxy}phenyl)-2-chloro-3-(1-cyano-1-methylethyl)benzamide | 300 mg, 41% | C(C)(=O)NC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])OC=2C=C(C=CC2)NC(C2=C(C(=CC=C2)C(C)(C)C#N)Cl)=O | C26H20ClN5O5S
